US05109024
Step A: N,N'-Bis(2-(cyano)ethyl)-1,8-octanediamine
Dissolve 14.4 g (0.1 mol) of 1,8-diaminooctane and 14.5 ml (0.22 mol) of acrylonitrile in 100 ml of ethanol and reflux overnight. Remove the solvent at reduced pressure. Analysis showed the title compound to be >98% pure.

reactant | 1,8-diaminooctane | 0.1 mol, 14.4 g | NCCCCCCCCN | C8H20N2
reactant | acrylonitrile | 0.22 mol, 14.5 ml | C(C=C)#N | C3H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N,N'-Bis(2-(cyano)ethyl)-1,8-octanediamine | C(#N)CCNCCCCCCCCNCCC#N | C14H26N4
